US08217069B2
5-(n-Butoxycarbonyl)-3-[2-fluoro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
A mixture of 5-chloro-3-[2-fluoro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (0.14 g), palladium(II) acetate (7 mg), 1,3-bis(diphenylphosphino)propane (12 mg), triethylamine (0.13 mL) and n-butanol (2 mL) in dimethyl sulfoxide (3 mL) was stirred at 130° C. under a carbon monoxide atmosphere in a reaction vessel equipped with a reflux condenser overnight. The reaction mixture was diluted with ethyl acetate, and the resulting mixture was washed with 1 mol/L hydrochloric acid, water and brine successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1−1/2) to give the title compound (0.13 g).

reactant | 5-chloro-3-[2-fluoro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 0.14 g | ClC1=CC=C2C(=N1)N(C(N2)=O)C2=C(C=C(C(=C2)OCC2=C(C(=CC=C2OC)F)F)OC)F | C21H15ClF3N3O4
reactant | 1,3-bis(diphenylphosphino)propane | 12 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | triethylamine | 0.13 mL | C(C)N(CC)CC | C6H15N
reactant | n-butanol | 2 mL | C(CCC)O | C4H10O
reactant | dimethyl sulfoxide | 3 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium(II) acetate | 7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-(n-Butoxycarbonyl)-3-[2-fluoro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 0.13 g | C(CCC)OC(=O)C1=CC=C2C(=N1)N(C(N2)=O)C2=C(C=C(C(=C2)OCC2=C(C(=CC=C2OC)F)F)OC)F | C26H24F3N3O6
